US07595327B2
(3R,4R)-4-(4-(Benzyloxy)phenylsulfonamido)-N-tert-butoxy-3-methyl-tetrahydro-2H-pyran-3-carboxamide was dissolved in ethyl acetate (25 mL), 10% palladium on carbon (90 mg) was added, and the resulting reaction mixture was stirred under a hydrogen balloon overnight. The reaction mixture was then filtered and concentrated to provide (3R,4R)-N-tert-butoxy-4-(4-hydroxyphenylsulfonamido)-3-methyl-tetrahydro-2H-pyran-3-carboxamide as a white solid that was used in the next step without purification. MS: (M+Na)+=409.0; (M−H)−=385.2.

reactant | (3R,4R)-4-(4-(Benzyloxy)phenylsulfonamido)-N-tert-butoxy-3-methyl-tetrahydro-2H-pyran-3-carboxamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](COCC1)(C(=O)NOC(C)(C)C)C | C24H32N2O6S
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 90 mg | [Pd] | Pd
product | (3R,4R)-N-tert-butoxy-4-(4-hydroxyphenylsulfonamido)-3-methyl-tetrahydro-2H-pyran-3-carboxamide | C(C)(C)(C)ONC(=O)[C@]1(COCC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)O)C | C17H26N2O6S
